* NGSPICE file created from clb.ext - technology: gf180mcuD

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_1 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_2 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__endcap abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__endcap VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_4 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_4 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__filltie abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__filltie VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__dffq_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__dffq_1 D CLK Q VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_8 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_8 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__dffq_4 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__dffq_4 D CLK Q VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_16 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_16 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__buf_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__buf_2 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_32 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_32 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__mux2_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__mux2_2 I0 I1 S Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__mux4_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__mux4_1 I0 I1 I2 I3 S0 S1 Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__buf_4 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__buf_4 I Z VDD VNW VPW VSS
.ends

.subckt clb CLK1 CLK1_BUFF CLK2 CLK2_BUFF CLK_CLB D IN[0] IN[1] OUT Q VDD VSS
XFILLER_5_4 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_0_57 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_9_33 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_6_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_4_Left_14 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_0_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_3_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XPHY_EDGE_ROW_6_Right_6 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_0_59 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XTAP_TAPCELL_ROW_8_25 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_9_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_1_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XPHY_EDGE_ROW_8_Left_18 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_3_6 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_9_27 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_1_4 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_1_Right_1 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_09_ regbank_inst.net3 net2 REG\[2\] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffq_1
XFILLER_3_8 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_1_63 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_08_ regbank_inst.net4 net2 REG\[1\] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffq_1
XTAP_TAPCELL_ROW_0_20 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_9_19 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
X_07_ regbank_inst.net5 net2 net6 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffq_4
XTAP_TAPCELL_ROW_0_21 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_3_Left_13 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_06_ net3 net1 regbank_inst.net1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffq_1
XPHY_EDGE_ROW_5_Right_5 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_05_ REG\[4\] net1 regbank_inst.net2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffq_1
XFILLER_8_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_1_67 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_04_ REG\[3\] net1 regbank_inst.net3 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffq_1
Xinput1 CLK1 net1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_2
X_03_ REG\[2\] net1 regbank_inst.net4 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffq_1
XPHY_EDGE_ROW_7_Left_17 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_9_Right_9 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xinput2 CLK2 net2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_2
XFILLER_1_69 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_02_ REG\[1\] net1 regbank_inst.net5 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffq_1
XTAP_TAPCELL_ROW_6_24 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xinput3 D net3 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_2
XFILLER_6_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
X_01_ LUT_OUT dff_q net6 OUT VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__mux2_2
XPHY_EDGE_ROW_0_Right_0 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_4_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_00_ REG\[4\] REG\[3\] REG\[2\] REG\[1\] IN[1] IN[0] LUT_OUT VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__mux4_1
XTAP_TAPCELL_ROW_9_26 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XTAP_TAPCELL_ROW_9_27 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_2_Left_12 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_4_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XPHY_EDGE_ROW_4_Right_4 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_8_60 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_8_51 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_2_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_6_Left_16 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_8_Right_8 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_32 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_5_21 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_2_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XTAP_TAPCELL_ROW_4_23 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_5_67 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_8_45 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_5_13 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XPHY_EDGE_ROW_1_Left_11 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_8_68 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XPHY_EDGE_ROW_3_Right_3 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_5_69 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_2_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_9_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_8_26 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_14_ net2 net5 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_2
XFILLER_8_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XPHY_EDGE_ROW_5_Left_15 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_8_49 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_13_ net1 net4 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_2
XPHY_EDGE_ROW_7_Right_7 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_9_4 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_12_ LUT_OUT CLK_CLB dff_q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffq_1
XFILLER_7_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
X_11_ regbank_inst.net1 net2 REG\[4\] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffq_1
XFILLER_8_18 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
X_10_ regbank_inst.net2 net2 REG\[3\] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffq_1
XPHY_EDGE_ROW_9_Left_19 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_0_31 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_0_53 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_9_51 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xoutput4 net4 CLK1_BUFF VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_4
XPHY_EDGE_ROW_0_Left_10 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_5_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_0_33 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_9_31 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_9_53 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_2_Right_2 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_2_22 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xoutput5 net5 CLK2_BUFF VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_4
XFILLER_0_45 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_6_66 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xoutput6 net6 Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_4
.ends
